US07417047B2
Preparation of 1-(Difluoromethoxy)-4-ethynylbenzene
A solution of {[4-(difluoromethoxy)phenyl]ethynyl}(trimethyl)silane (10.0 g, 41.7 mmol) in MeOH/CH2Cl2 (1/1) was treated with cesium carbonate (16.3 g, 50 mmol) at room temperature, stirred for 1.5 h, diluted with CH2Cl2 and filtered through a pad of silica gel. The filtrate was concentrated to dryness to give the title compound (6.8 g, 97%) as an oil, identified by NMR and mass spectral analyses.

reactant | {[4-(difluoromethoxy)phenyl]ethynyl}(trimethyl)silane | 41.7 mmol, 10.0 g | FC(OC1=CC=C(C=C1)C#C[Si](C)(C)C)F | C12H14F2OSi
reactant | cesium carbonate | 50 mmol, 16.3 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | Et2O hexane | CCOCC.CCCCCC
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 1-(Difluoromethoxy)-4-ethynylbenzene | 6.8 g, 97% | FC(OC1=CC=C(C=C1)C#C)F | C9H6F2O
